US09169267B2
4-(3-nitrobenzyl)tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium chloride
A solution of 1.716 g (10 mmol) 3-nitrobenzyl chloride and 1.152 g (10 mmol) tetrahydro-[1,3]oxazolo[2,3-b][1,3]oxazole in 20 ml of chloroform was stirred at the room temperature for 3 days. The precipitate was filtered off, washed twice with dichloromethane and dried. 1.894 g (66.1%) of white amorphous product was obtained, which can be further purified by recrystallisation from rectified ethanol.

reactant | 3-nitrobenzyl chloride | 10 mmol, 1.716 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | tetrahydro-[1,3]oxazolo[2,3-b][1,3]oxazole | 10 mmol, 1.152 g | O1CCN2C1OCC2 | C5H9NO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-nitrobenzyl)tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium chloride | 1.894 g, 66.1% | [Cl-].[N+](=O)([O-])C=1C=C(C[N+]23C(OCC2)OCC3)C=CC1 | InChI=1S/C12H15N2O4.ClH/c15-13(16)11-3-1-2-10(8-11)9-14-4-6-17-12(14)18-7-5-14;/h1-3,8,12H,4-7,9H2;1H/q+1;/p-1
